US08017554B2
S.5 Ethyl-(4-methoxy-1-oxo-1H-1λ*4*-benzo[d]isothiazol-3-yl)-amine (Compound example C.34)
90 mg (0.43 mmol) Ethyl-(4-Methoxy-benzo[d]isothiazol-3-yl)-amine, prepared in analogy to compound example 32, was dissolved in 10 ml dichloromethane. The solution was cooled to 0 C and 100 mg of a 70% m-chlor-perbenzoic acid was added portion wise. The cooling bath was removed and stirring was continued for 30 min at room temperature. The solution was poured into Na2CO3-solution. The layers were separated and the organic layer was washed with Na2CO3-solution and water. The organic layer was dried over NaSO4 and concentrated. The crude product was purified by reverse-phase HPLC (eluent acetonitrile/water) to yield 40 mg (0.18 mmol) of the title product.

reactant | Ethyl-(4-Methoxy-benzo[d]isothiazol-3-yl)-amine | 0.43 mmol, 90 mg | C(C)NC1=NSC2=C1C(=CC=C2)OC | C10H12N2OS
reactant | m-chlor-perbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl-(4-methoxy-1-oxo-1H-1λ*4*-benzo[d]isothiazol-3-yl)-amine | 0.18 mmol, 40 mg | C(C)NC1=NS(C2=C1C(=CC=C2)OC)=O | C10H12N2O2S
